US07989461B2
Preparation of 2-fluoro-3-iodo-4-methylbenzoic acid
2-Amino-3-iodo-4-methylbenzoic acid (3.9 g, 14 mmol) was added slowly at 0° C. to HF-pyridine (30 mL). The mixture was stirred for 15 min and then sodium nitrite (1.5 g, 21 mmol) was added slowly at 0° C. The resulting mixture was stirred at 0° C. for 15 min and warmed up to RT for 15 min, then heated at 90° C. for 1.5 h. The mixture was cooled to 50° C., ice-water (100 mL) was added and the mixture was extracted with EtOAc (3×80 mL). The combined organic extracts were washed with brine (100 mL) and dried over sodium sulfate. The solvent was removed in vacuo to give the title compound (3.5 g, 89%). MS (M+H)+ 281.

reactant | 2-Amino-3-iodo-4-methylbenzoic acid | 14 mmol, 3.9 g | NC1=C(C(=O)O)C=CC(=C1I)C | C8H8INO2
reactant | HF-pyridine | 30 mL | C1=CC=NC=C1.F
reactant | sodium nitrite | 21 mmol, 1.5 g | N(=O)[O-].[Na+]
product | 2-fluoro-3-iodo-4-methylbenzoic acid | 3.5 g, 89% | FC1=C(C(=O)O)C=CC(=C1I)C | C8H6FIO2
